### PR TITLE
Helper module for random variables and proposed style guide

### PR DESCRIPTION
**Pull request by jamesbrandecon**
## What changed
- split the reusable probability-on-random-variables helper layer into `HansenEconometrics/Probability/RandomVars.lean`
- moved Chapter 2 textbook-facing random-variable wrappers back into `Chapter2CondExp.lean` and `Chapter2Variance.lean`
- pushed Chapter 4 further toward the random-variable-facing API by adding `..._rv` wrappers for conditional and unconditional unbiasedness and covariance identities
- renamed the public random-variable wrapper theorems from `_on` to `_rv`
- updated the README, Chapter 2 crosswalk, and `AGENTS.md` to reflect the new module boundary and naming policy

## Why
- keep generic helper infrastructure separate from chapter exposition
- make the public probability layer read in terms of conditioning random variables rather than explicit sigma-algebras wherever possible
- make the chapter-facing naming clearer: `_rv` signals a random-variable wrapper more directly than `_on`

## User impact
- reusable helper definitions such as `conditioningSpace`, `XMeasurable`, `condExpOn`, `cefErrorOn`, `condVarOn`, and `residualVarOn` now live in `HansenEconometrics/Probability/RandomVars.lean`
- Chapter 2 and Chapter 4 public probability theorems now prefer random-variable-facing wrappers, including the new unconditional Chapter 4 bridges
- backend sigma-algebra statements remain available, but the intended public layer is cleaner and easier to cite

## Validation
- `lake build`
- `lake build HansenEconometrics.Chapter2CondExp`
- `lake build HansenEconometrics.Chapter4LeastSquaresRegression`

### CODE REVIEW

File: HansenEconometrics/Chapter4LeastSquaresRegression.lean [hunk 1]
```diff
@@ -265,11 +265,7 @@ theorem ols_condExp_eq_beta
   change ∀ᵐ ω ∂μ, μ[f | m] ω = β
   have hcoord : ∀ j : k, ∀ᵐ ω ∂μ, μ[f | m] ω j = β j := by
     intro j
-    have happly : (fun ω => μ[f | m] ω j) =ᵐ[μ] μ[(fun ω => f ω j) | m] := by
-      simpa [f] using
-        (ContinuousLinearMap.proj (R := ℝ) j).comp_condExp_comm (μ := μ) (m := m)
-          (f := f) hf_int
-    exact happly.trans <|
+    exact (condExp_apply (m := m) (μ := μ) (f := f) hf_int j).trans <|
```
Comment (paulgp) [inline HansenEconometrics/Chapter4LeastSquaresRegression.lean:268]: This really cleans up this part of the proof

File: HansenEconometrics/Chapter4LeastSquaresRegression.lean [hunk 2]
```diff
@@ -480,18 +597,7 @@ theorem ols_condExp_centered_mul_eq_variance_matrix
...
-          (f := f) hf_int
-    have happly_l : (fun ω => μ[(fun ω => f ω j) | m] ω l) =ᵐ[μ] μ[(fun ω => f ω j l) | m] := by
-      simpa [f] using
-        (ContinuousLinearMap.proj (R := ℝ) l).comp_condExp_comm (μ := μ) (m := m)
-          (f := fun ω => f ω j) (Integrable.eval hf_int j)
-    have happly_jl : (fun ω => μ[f | m] ω j l) =ᵐ[μ] fun ω => μ[(fun ω => f ω j) | m] ω l := by
-      filter_upwards [happly_j] with ω hω
-      exact congrFun hω l
-    exact happly_jl.trans <| happly_l.trans <|
+    exact (condExp_apply_apply (m := m) (μ := μ) (f := f) hf_int j l).trans <|
```
Comment (paulgp) [inline HansenEconometrics/Chapter4LeastSquaresRegression.lean:600]: Here especially
